US06063791
1-[[3-[(2,4-Dimethylquinolin-8-yloxymethyl]-2,4-dichlorophenyl]sulfonyl]-N-[4-[[4-(aminoiminomethyl)phenyl]carbonylamino]butyl]-2(S)-pyrrolidinecarboxamide dihydrochloride
A solution of 0.34 g (1.69.10-3 mol) of 4-(aminoiminomethyl)benzoic acid hydrochloride in 5 ml of dimethylformamide (DMF) is prepared and 0.46 g (1.69.10-3 mol) of EDCI and 0.32 g (1.69.10-3 mol) of HOAT are added. The mixture is stirred for 30 minutes at room temperature. The solution obtained is then added dropwise to a solution of 1 g (1.53.10-3 mol) of 1-[[3-[(2,4-dimethylquinolin-8-yl)oxymethyl]-2,4-dichlorophenyl]sulfonyl]-N-[4-aminobutyl]-2(S)-pyrrolidinecarboxamide (in the form of the dihydrochloride) in 5 ml of DMF and 0.46 g (4.6.10-3 mol) of triethylamine. The reaction mixture is stirred for 4 hours at room temperature and then poured into iced water. 1 N NaOH solution is added slowly to bring the pH to 8 and the mixture is extracted several times with dichloromethane. The combined organic phases are washed with water, dried over sodium sulfate and then concentrated under reduced pressure. The crude product is purified by chromatography a first time on NH2 -grafted silica gel using a dichloromethane/methanol mixture (98/2; v/v) as the eluent, and a second time on C18-grafted silica gel (type RP18) using a mixture of dichloromethane and 0.2 N HCl gas in methanol (98/2; v/v) as the eluent. After removal of the solvents under reduced pressure, the product is dissolved in 5 ml of distilled water and the solution is lyophilized to give 150 mg of the expected product in the form of a pale yellow solid (yield=13%).

reactant | EDCI | 0.46 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOAT | 0.32 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | 1-[[3-[(2,4-dimethylquinolin-8-yl)oxymethyl]-2,4-dichlorophenyl]sulfonyl]-N-[4-aminobutyl]-2(S)-pyrrolidinecarboxamide | 1 g | CC1=NC2=C(C=CC=C2C(=C1)C)OCC=1C(=C(C=CC1Cl)S(=O)(=O)N1[C@@H](CCC1)C(=O)NCCCCN)Cl | C27H32Cl2N4O4S
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
reactant | NaOH | 1 N | [OH-].[Na+]
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | DMF | 5 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 0.46 g | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
product | 4-(aminoiminomethyl)benzoic acid hydrochloride | 0.34 g | Cl.NN=CC1=CC=C(C(=O)O)C=C1 | InChI=1S/C8H8N2O2.ClH/c9-10-5-6-1-3-7(4-2-6)8(11)12;/h1-5H,9H2,(H,11,12);1H
